US04935441
As in example 1, but using 2.2 g flavan-3-one, 12 ml dimethylformamide and 3 ml phosphorous oxychloride. Reaction time is one hour at 0°-5°. After hydrolysis and usual work up the residual oil is purified by column chromatography. The best fractions give a pale yellow oil of pure 3-chloro-4-formyl-flav-3-ene. TLC (n-hexane/acetone 4:1, SiO2) single spot, Rf =0.47. NMR (90 MHz, CDCl3):δ(ppm)=5.86 [1H, s, H-C(2)]; 6.7-7.5 [3H, m, H-C (6,7,8)]; 7.35 [5H, S,C6H5 ]; 8.15 [1H, dd, H-C(5)].

reactant | flavan-3-one | 2.2 g | O1C(C(CC2=CC=CC=C12)=O)C1=CC=CC=C1 | C15H12O2
reactant | phosphorous oxychloride | 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 3-chloro-4-formyl-flav-3-ene | ClC=1C(OC2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C16H11ClO2
